US07615642B2
1-{[2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-N-(2-fluoroethyl)-1H-pyrrole-3-carboxamide
Following the same procedure in Example 31, method B, using 2-fluoroethylamine hydrochloride (0.70 g, 6.98 mmol), N,N-diisopropylethylamine (2.13 ml, 12.3 mmol), HATU (1.46 g, 3.83 mmol) and 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carboxylic acid (3.49 mmol) in DMF (90 mL). The crude product was purified by MPLC on silica gel using EtOAc to provide the title compound as white solid. Yield: 0.74 g (35%). 1H NMR (400 MHz, METHANOL-D4) δ 1.40-1.46 (m, 5 H), 1.51 (dd, J=13.28, 3.71 Hz, 2 H), 1.57 (s, 9 H), 3.52 (td, J=26.02, 5.15 Hz, 2 H), 3.86 (dd, J=11.52, 3.52 Hz, 2 H), 4.39 (d, J=7.81 Hz, 2 H), 4.43 (m, 2 H), 6.64 (dd, J=3.32, 1.56 Hz, 1 H), 7.26-7.28 (m, 1 H), 7.80-7.83 (m, 1 H), 7.87-7.93 (m, 2 H), 8.24 (d, J=1.17 Hz, 1 H); MS (APPI) (M+H)+=491.3.

reactant | 2-fluoroethylamine hydrochloride | 6.98 mmol, 0.70 g | Cl.FCCN
reactant | N,N-diisopropylethylamine | 12.3 mmol, 2.13 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 3.83 mmol, 1.46 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carboxylic acid | 3.49 mmol | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2C=C(C=C2)C(=O)O | C22H27N3O5S
solvent | DMF | 90 mL | CN(C)C=O | C3H7NO
product | 1-{[2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-N-(2-fluoroethyl)-1H-pyrrole-3-carboxamide | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2C=C(C=C2)C(=O)NCCF | C24H31FN4O4S
